US05597826
8-(4-Methylpiperazin-1-yl) naphthalene-2-carboxylic acid 4-chlorobenzylamide
A mixture of the above acid (0.25 g, 0.82 mmol), methylene chloride (4 mL), N-methylmorpholine (0.31 mL, 2.87 mmol), 1-hydroxy benzotriazole hydrate (0.12 g, 0.9 mmol), 4-chlorobenzylamine (0.1 mL, 0.82 mmol) and 1-cyclohexyl-3-(7-morpholinoethyl) carbodiimide p-toluenesulfonate (0.69 g, 1.62 mmol) was stirred 17 hours at ambient temperature. The reaction was diluted with water (10 mL) and methylene chloride (10 mL) and adjusted to pH 9 by addition of saturated aqueous sodium carbonate. The phases were separated and the organic layer was dried over sodium sulfate and concentrated to a yellow solid. This material was purified by flash chromatography on silicon gel (6 g). Elution with 12: 1: 0.04, methylene chloride, methanol, ammonium hydroxide gave 0.07 g (21.8%) of the title compound as a solid: mp 72°-74° C.; tic: Rf =0.28 (12: 1: 0.04, methylene chloride, methanol, ammonium hydroxide); 13C NMR δ 168.04, 150.69, 137.09, 136.16, 133.17, 130.82, 129.01, 128.90, 128.77, 128.18, 127.91, 123.84, 123.30, 123.07, 115.61, 55.47, 53.10, 46.13, 43.34. HRMS m/e calculated for C23H24ClN3O: 393.1607. Observed m/e: 393.1642.

reactant | N-methylmorpholine | 2.87 mmol, 0.31 mL | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxy benzotriazole hydrate | 0.9 mmol, 0.12 g | O.ON1N=NC2=C1C=CC=C2
reactant | 4-chlorobenzylamine | 0.82 mmol, 0.1 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 10 mL | O | H2O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | 8-(4-Methylpiperazin-1-yl) naphthalene-2-carboxylic acid 4-chlorobenzylamide | 0.07 g, 21.8% | ClC1=CC=C(CNC(=O)C2=CC3=C(C=CC=C3C=C2)N2CCN(CC2)C)C=C1 | C23H24ClN3O
